US07572808B2
B. Preparation of 4-(3-bromo-2-hydrazinylpyridin-4-yl)benzonitrile
To a suspension of 4-(3-bromo-2-chloropyridin-4-yl)benzonitrile (0.59 g, 2.02 mmol) in dioxane (7 mL) at room temperature was added anhydrous hydrazine (1 mL). The resulting mixture was stirred at 80° C. for 2 h. Analysis by HPLC/MS indicated the reaction was not complete. Additional anhydrous hydrazine (1 mL) was added, and the reaction mixture was stirred at 90° C. for 5 h more. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. Water was added to the residue, and the resulting suspension was sonicated for 5 min. The resulting slurry was filtered, and the collected solid was washed with water (10 mL×2), then dried in a 45° C. vacuum oven for 16 h to afford 510 mg of the title compound as a beige solid. HPLC/MS: retention time=1.74 min, [M+H]+=289.

reactant | 4-(3-bromo-2-chloropyridin-4-yl)benzonitrile | 2.02 mmol, 0.59 g | BrC=1C(=NC=CC1C1=CC=C(C#N)C=C1)Cl | C12H6BrClN2
reactant | hydrazine | 1 mL | NN | H4N2
reactant | hydrazine | 1 mL | NN | H4N2
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 4-(3-bromo-2-hydrazinylpyridin-4-yl)benzonitrile | 510 mg | BrC=1C(=NC=CC1C1=CC=C(C#N)C=C1)NN | C12H9BrN4
